US05550233
Part C: 7-Ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-4"-[3-(3,5-dimethylphenyl)-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (Isomer 1)
A solution of 220 mg (0.186 mmole) of 7-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-(3,5-dimethylphenyl)-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in 10 mL of a 10% HF-acetonitrile solution was stirred at room temperature. After 18 h, the reaction was quenched with 5 mL of ethoxytrimethylsilane and the solution was concentrated. The oily residue was purified by HPLC (Waters RCM silica gel, 25×100 mm) using hexane-methyl t-butyl ether-acetonitrile (6:3:1) to afford 45 mg of the faster diastereomer as a white solid. MASS: 960 (M+Li)

reactant | 7-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-(3,5-dimethylphenyl)-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.186 mmole, 220 mg | C(C)C1CCN2C(C(C3(C(CC(C(C(CC(CC(=CCC(CC(C(C(OC(C2C1)=O)C(=CC1CC(C(CC1)(CCC(O)C1=CC(=CC(=C1)C)C)O[Si](CC)(CC)CC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O)C)C)OC)O3)OC)C)O)=O)=O | C66H111NO13Si2
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-Ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-4"-[3-(3,5-dimethylphenyl)-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1CCN2C(C(C3(C(CC(C(C(CC(CC(=CCC(CC(C(C(OC(C2C1)=O)C(=CC1CC(C(CC1)(CCC(O)C1=CC(=CC(=C1)C)C)O)OC)C)C)O)=O)C)C)OC)O3)OC)C)O)=O)=O | C54H83NO13
